US05157041
A solution of 90 mg of N2 -[4-(4-tert.butoxyphenyl)-2(R)-hydroxy-3(S)-[[N-(2-naphthoyl)-L-asparaginyl]amino]butyl]-N1 -tert.butyl-L-prolinamide in 40 ml of 3.5M hydrogen chloride in ethyl acetate was stirred at room temperature for 30 minutes. The solvent was removed by evaporation and the residue was triturated with diethyl ether and filtered to give 80 mg of N2 -[2(R)-hydroxy-4-(4-hydroxyphenyl)-3(S)-[[N-(2-naphthoyl)-L-asparaginyl]amino]butyl]-N1 -tert.butyl-L-prolinamide hydrochloride as a white solid of melting point 171°-174° C.

reactant | N2 [4-(4-tert.butoxyphenyl)-2(R)-hydroxy-3(S)-[[N-(2-naphthoyl)-L-asparaginyl]amino]butyl]-N1 -tert.butyl-L-prolinamide | 90 mg | N#N.C(C)(C)(C)OC1=CC=C(C=C1)C[C@@H]([C@@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)N)O)NC([C@@H](NC(=O)C1=CC2=CC=CC=C2C=C1)CC(N)=O)=O
reactant | hydrogen chloride | 3.5M, 40 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N2 [2(R)-hydroxy-4-(4-hydroxyphenyl)-3(S)-[[N-(2-naphthoyl)-L-asparaginyl]amino]butyl]-N1 -tert.butyl-L-prolinamide hydrochloride | 80 mg | N#N.Cl.O[C@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)N)[C@H](CC1=CC=C(C=C1)O)NC([C@@H](NC(=O)C1=CC2=CC=CC=C2C=C1)CC(N)=O)=O | InChI=1S/C34H43N5O6.ClH.N2/c1-33(2,3)39-16-6-15-34(39,32(36)45)20-28(41)26(17-21-9-13-25(40)14-10-21)37-31(44)27(19-29(35)42)38-30(43)24-12-11-22-7-4-5-8-23(22)18-24;;1-2/h4-5,7-14,18,26-28,40-41H,6,15-17,19-20H2,1-3H3,(H2,35,42)(H2,36,45)(H,37,44)(H,38,43);1H;/t26-,27-,28+,34+;;/m0../s1
